US09056874B2
(±)-2-(Hydroxy(3,5,7-trimethyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile
A solution of 2-(3,5,7-trimethyl-1H-indole-4-carbonyl)-1H-benzo[d]imidazole-5-carbonitrile (20 mg, 0.061 mmol) and LiBH4 in THF (2M, 2 mL, 4.00 mmol) was stirred at 50° C. for 2 h. The reaction mixture was cooled to room temperature. The mixture was quenched by half satd. aq. KHSO4 and basified by 5% NaHCO3. The layers were separated and the aqueous layer was extracted with CH2Cl2/2,2,2-trifluoroethanol (c.a. 9/1). The organic phase was washed with H2O and brine, dried over Na2SO4, and filtered. After concentration of the filtrate the resulting residue was purified by RP-HPLC (HC-A) to give the title compound. 1H NMR (400 MHz, ACETONITRILE-d3 with about 5 μL TFA) δ ppm 9.10 (br. s., 1H), 8.08 (s, 1H), 7.73-7.82 (m, 2H), 7.06 (s, 1H), 6.96 (s, 1H), 6.84 (s, 1H), 2.45 (s, 3H), 2.21 (br. s., 3H), 2.19 (s, 3H). HRMS calcd. for C20H18N4O (M+H)+ 331.1554. found 331.1555.

reactant | 2-(3,5,7-trimethyl-1H-indole-4-carbonyl)-1H-benzo[d]imidazole-5-carbonitrile | 0.061 mmol, 20 mg | CC1=CNC=2C(=CC(=C(C12)C(=O)C1=NC2=C(N1)C=CC(=C2)C#N)C)C | C20H16N4O
reactant | LiBH4 | [Li+].[BH4-]
reactant | THF | 4.00 mmol, 2M, 2 mL | C1CCOC1 | C4H8O
product | (±)-2-(Hydroxy(3,5,7-trimethyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | OC(C1=NC2=C(N1)C=CC(=C2)C#N)C2=C1C(=CNC1=C(C=C2C)C)C | C20H18N4O
